US06204278B1
A mixture of n-heptylamine (1.21 g, 10.5 mmols) and 6-hexanolactone (1.14 g, 10 mmols) was stirred at 100° C. for 3 hours, and then crystallized from ether-hexane to obtain 1.77 g (yield 78%) of N-heptyl-6-hydroxyhexaneamide as colorless crystal.

reactant | n-heptylamine | 10.5 mmols, 1.21 g | C(CCCCCC)N | C7H17N
reactant | 6-hexanolactone | 10 mmols, 1.14 g | C1(CCCCCO1)=O | C6H10O2
product | N-heptyl-6-hydroxyhexaneamide | 1.77 g, yield 78% | C(CCCCCC)NC(CCCCCO)=O | C13H27NO2
